US08957089B2
65.2 tert-Butyl[2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate
Sodium hydride (0.626 g, 15.64 mmol, 60% suspension in mineral oil) was washed under dry conditions under nitrogen atmosphere with n-hexane. Dimethylformamide (20 mL) was added followed by 1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol (2.1 g, 7.11 mmol) under stirring. After the exothermic reaction had ceased stirring was continued at room temperature for 1 h before tert-butyl (2-bromoethyl)carbamate (4.78 g, 21.33 mmol) was added dropwise as a solution in dimethylformamide (10 mL). The reaction mixture was stirred at room temperature over night. The solvent was evaporated in vacuo. Ice water was added (60 mL) and the aqueous phase was extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane:methanol=100:1). Yield: 2.5 g (5.7 mmol, 36%).

reactant | Sodium hydride | 15.64 mmol, 0.626 g | [H-].[Na+]
reactant | 1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol | 7.11 mmol, 2.1 g | FC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)O | C19H18FNO
reactant | tert-butyl (2-bromoethyl)carbamate | 21.33 mmol, 4.78 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
solvent | n-hexane | CCCCCC | C6H14
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-Butyl[2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate | C(C)(C)(C)OC(NCCOC1=CC=C2CCN=C(C2=C1)C1(CCC1)C1=CC=C(C=C1)F)=O | C26H31FN2O3
